US06897224B2
2-(Acetoxymethyl)-5-aminoquinoline
Under hydrogen atmosphere, a solution that consists of 410 mg (1.67 mol) of 2-(acetoxymethyl)-5-nitroquinoline in 61 ml of acetone can be stirred in the presence of 410 mg of Raney nickel for 2 hours at room temperature. It is suctioned off on Celite and rewashed with acetone. After removal of the solvent and subsequent chromatography on silica gel with hexane-ethyl acetate (10-100%), 230 mg (64% of theory) of the product is obtained.

reactant | 2-(acetoxymethyl)-5-nitroquinoline | 1.67 mol, 410 mg | C(C)(=O)OCC1=NC2=CC=CC(=C2C=C1)[N+](=O)[O-] | C12H10N2O4
solvent | acetone | 61 ml | CC(=O)C | C3H6O
catalyst | Raney nickel | 410 mg | [Ni] | Ni
product | 2-(Acetoxymethyl)-5-aminoquinoline | C(C)(=O)OCC1=NC2=CC=CC(=C2C=C1)N | C12H12N2O2
